US07429665B2
N-Methoxy-N-methyl4-(quinolin-2-ylmethoxy)-benzamide
To a solution of 4-(Quinolin-2-ylmethoxy)-benzoic acid (25.98 g, 93 mmole) was added 250 ml of thionyl chloride under N2. The reaction mixture stirred 3 h and the excess thionyl chloride was removed under vacuum. The acid chloride was dissolved in tetrahydrofuran (450 ml) and triethylamine (50 ml, 4 eq.) was slowly added. O,N-dimethyl hydroxyl amine hydrochloride (27 g, 3 eq.) was added and the reaction stirred 18 h. The reaction mixture was placed on a rotovap to remove the solvent, partitioned between 1N NaOH and methylene chloride, separated, dried magnesium sulfate, filtered and concentrated. The crude product was filtered through silica gel eluting with 30-70% ethyl acetate/hexane to proved the title compound as a brown oil (26.26 g, 87%); 1H NMR (400 MHz, CDCl3) δ 8.17 (d, J=8.7 Hz, 1 H), 8.06 (d, J=8.3 Hz, 1 H), 7.81 (d, J=8.3 Hz, 1H), 7.67 (m, 3 H), 7.63 (d, J=8.3 Hz, 1 H), 7.52 (m, 1 H), 7.01 (M, 2 H), 5.39 (s, 2 H), 3.52 (s, 3 H) 3.31 (s, 2H); MS: (M+H m/z=323.2).

reactant | 4-(Quinolin-2-ylmethoxy)-benzoic acid | 93 mmole, 25.98 g | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(C(=O)O)C=C1 | C17H13NO3
reactant | triethylamine | 50 ml, 4 eq. | C(C)N(CC)CC | C6H15N
reactant | O,N-dimethyl hydroxyl amine hydrochloride | 27 g, 3 eq. | Cl.CONC
solvent | thionyl chloride | 250 ml | S(=O)(Cl)Cl | Cl2OS
product | N-Methoxy-N-methyl4-(quinolin-2-ylmethoxy)-benzamide | CON(C(C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)=O)C | C19H18N2O3
